US06255305B1
e) 6-(1-Methyl-1 H-1,2,4-triazol-3-ylmethoxy)-7-(morpholin-4-yl)-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]-pyridazine
A mixture of 3-bromo-6-(1-methyl-1 H-1,2,4-triazol-3-ylmethoxy)-7-(morpholin-4-yl)-1,2,4-triazolo[4,3-b]pyridazine (100 mg, 0.25 mmol) and 2-(tributylstannyl)thiophene (240 mL 0.75 mmol) in dry DMF (3 ml) was deoxygenated by bubbling through nitrogen gas for 15 minutes. Dichlorobis(triphenylphosphine)palladium (II) (20 mg) was then added. The whole apparatus was further deoxygenated by three ‘evacuate/fill N2’ cycles. The mixture was then stirred and heated at 100° C. for 16 hours under nitrogen. The reaction mixture was partitioned between dichloromethane and water. The aqueous layer was further extracted with dichloromethane (x2). The combined extracts were dried (Na2SO4), filtered and evaporated. Residual DMF was removed under high vacuum. The residue was purified by chromatography on silica gel, eluting with 5% methanol/dichloromethane to give the title compound (60 mg, 60%). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ3.26-3.29 (4 H, m), 3.85-3.89 (4 H, m), 3.94 (3 H,-s), 5.64 (2 H, s), 7.19-7.23 (2 H, m), 7.47-7.59 (1 H, m), 8.05 (1 H, s), 8.18-8.20 (1 H, m); MS (ES+) m/e 399 [MH+]. Anal. Found C, 50.84; H, 4.39; N, 27.35. C17H18N8O2S. 0.3(H2O) requires C, 50.56; H, 4.64; N, 27.75%.

reactant | 3-bromo-6-(1-methyl-1 H-1,2,4-triazol-3-ylmethoxy)-7-(morpholin-4-yl)-1,2,4-triazolo[4,3-b]pyridazine | 0.25 mmol, 100 mg | BrC1=NN=C2N1N=C(C(=C2)N2CCOCC2)OCC2=NN(C=N2)C | C13H15BrN8O2
reactant | 2-(tributylstannyl)thiophene | 0.75 mmol, 240 mL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-(1-Methyl-1 H-1,2,4-triazol-3-ylmethoxy)-7-(morpholin-4-yl)-3-(thiophen-2-yl)-1,2,4-triazolo[4,3-b]-pyridazine | 60 mg, 60% | CN1N=C(N=C1)COC=1C(=CC=2N(N1)C(=NN2)C=2SC=CC2)N2CCOCC2 | C17H18N8O2S
